US08283353B2
4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.70 g) and rhodium acetate (dimer, 0.066 g) in methylene chloride (5 mL) was added dropwise a solution of ethyl 2-diazopropanoate (1.0 g) in methylene chloride (2 mL), and the mixture was stirred for 18 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crudely purified by silica gel column chromatography. This was dissolved in tetrahydrofuran (5 mL), methylmagnesium bromide (1 M tetrahydrofuran solution, 3 mL) was added dropwise at 0° C., and the mixture was stirred for 1 hr. The mixture was diluted with ethyl acetate and then saturated aqueous ammonium chloride solution was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.45 g, 84%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.70 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H30N4O2
reactant | ethyl 2-diazopropanoate | 1.0 g | [N+](=[N-])=C(C(=O)OCC)C | C5H8N2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | rhodium acetate | 0.066 g | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | 4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.45 g, 84% | OC(C(O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)C)(C)C | C34H40N4O3
